US06521622B1
Coupling Procedure A: Preparation of N-(2-(4-Chlorophenyl)Ethyl)-3-Hydroxypyridine-2-Carboxamide (233)
A stirred mixture of 3-hydroxypyridine-2-carboxylic acid (1.39 g, 0.01 mol) in dry THF (60 mL) under argon was cooled to −20° C. To this was added all at once a 20% solution of phosgene in toluene (5.1 g, 0.01 mol) and the resulting mixture was stirred for 90 minutes while the temperature slowly rose to 0° C. The reaction mixture was then recooled to −20° C. and a solution of diisopropylethylamine (2.58 g, 0.02 mol) in THF (20 mL) was added dropwise over 30 minutes. After the addition was complete, the mixture was stirred an additional 2 hours as the temperature was slowly brought to 0° C. Stirring was continued at 0° C. overnight. To this stirred mixture was added, all at once, 2-(4-chlorophenyl)ethylamine (1.56 g, 0.01 mol), and the resulting mixture was stirred at room temperature for 6 hours. The mixture was diluted with ether (100 mL), washed with 1N HCl (100 mL), dried (MgSO4) and concentrated to give the title compound as an off-white solid (1.95 g). The mass spectrum showed the expected 3:1 parent ion ratio at m/e 276 and 278.

reactant | 3-hydroxypyridine-2-carboxylic acid | 0.01 mol, 1.39 g | OC=1C(=NC=CC1)C(=O)O | C6H5NO3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.01 mol, 5.1 g | C1(=CC=CC=C1)C | C7H8
reactant | diisopropylethylamine | 0.02 mol, 2.58 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(4-chlorophenyl)ethylamine | 0.01 mol, 1.56 g | ClC1=CC=C(C=C1)CCN | C8H10ClN
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | N-(2-(4-Chlorophenyl)Ethyl)-3-Hydroxypyridine-2-Carboxamide | 1.95 g | ClC1=CC=C(C=C1)CCNC(=O)C1=NC=CC=C1O | C14H13ClN2O2
